US08871790B2
Compound 464.1. 4-(Allyloxy)pent-1-ene
A 500-mL four neck round-bottom flask was purged and maintained with an inert atmosphere of nitrogen, then a suspension of sodium hydride (14.0 g, 350 mmol, 2.01 equiv, 60%) in N,N-dimethylformamide (100 mL) was added. The mixture was cooled to 0° C., then a solution of pent-4-en-2-ol (15.0 g, 174 mmol, 1.00 equiv) in N,N-dimethylformamide (100 mL) was added drop-wise and the mixture was stirred for 20 min at 0° C. The mixture was cooled to −20° C. and a solution of 3-bromoprop-1-ene (20.9 g, 172 mmol, 0.99 equiv) in N,N-dimethylformamide (100 mL) was added. The resulting mixture was allowed to warm to room temperature and stirred overnight, then carefully quenched with H2O (500 mL). The aqueous was extracted with ethyl acetate (4×100 mL) and the combined organics was washed with brine (2×200 mL), dried (Na2SO4), filtered and concentrated in vacuo to obtain the title compound as a yellow oil (13.3 g, 61%).

reactant | sodium hydride | 350 mmol, 14.0 g, 2.01 equiv | [H-].[Na+]
reactant | pent-4-en-2-ol | 174 mmol, 15.0 g, 1.00 equiv | CC(CC=C)O | C5H10O
reactant | 3-bromoprop-1-ene | 172 mmol, 20.9 g, 0.99 equiv | BrCC=C | C3H5Br
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-(Allyloxy)pent-1-ene | 13.3 g, 61% | C(C=C)OC(CC=C)C | C8H14O
